US05736548
To a mixture of 3-hydroxybenzaldehyde (5.42 g, 44.38 mmol), K2 CO3 (13.5 g) and acetonitrile was added N-(2-chloroethyl)piperidine hydrochloride (9.8 g). The reaction mixture was refluxed overnight, cooled to room temperature and filtered. The filtrate was stripped to give an oil which was partitioned between CHCl3 (350 ml) and 1M NaOH (200 ml). The organic layer was separated, washed with 1M NaOH (2×200 ml), treated with DARCO®, then MgSO4, filtered, and stripped to afford, as a dark oily liquid, 6.28 g of 3-[2-(1-piperdinyl)ethoxy]benzaldehyde.

reactant | 3-hydroxybenzaldehyde | 44.38 mmol, 5.42 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | N-(2-chloroethyl)piperidine hydrochloride | 9.8 g | Cl.ClCCN1CCCCC1
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[2-(1-piperdinyl)ethoxy]benzaldehyde | 6.28 g | N1(CCCCC1)CCOC=1C=C(C=O)C=CC1 | C14H19NO2
